US05925762
In a dry 100 mL flask equipped with an N2 inlet adapter, a rubber septum and a magnetic stirring bar, was placed phenyl N-(4-acetylphenyl)carbamate (6.38 g, 25 mmol) in DMSO (50 mL). Dibutylamine (4.42 mL, 26.25 mmol) was slowly added to the mixture. The resulting solution was stirred at room temperature for 15 min, after which time EtOAc (250 mL) was added to the reaction mixture. The latter was washed successively with H2O (2×50 mL), aqueous 1N HCl (100 mL), H2O (100 mL), aqueous 1N NaOH (100 mL) and brine (100 mL), dried (MgSO4) and concentrated under reduced pressure to give a crude solid. The solid was triturated with Et2O/hexane to yield 6.98 g (96% yield) of the title compound as a white solid.

reactant | phenyl N-(4-acetylphenyl)carbamate | 25 mmol, 6.38 g | C(C)(=O)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C15H13NO3
reactant | Dibutylamine | 26.25 mmol, 4.42 mL | C(CCC)NCCCC | C8H19N
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | N'-(4-Acetylphenyl)-N,N-dibutylurea | 6.98 g, 96% yield | C(C)(=O)C1=CC=C(C=C1)NC(N(CCCC)CCCC)=O | C17H26N2O2
